US05583135
A mixture of 6-[N-methyl-N-(4-methylthiophenyl)carbamoyl]-2,3-dihydro-7-hydroxy-5-oxo-5H-pyrido-[1,2,3-de]-1,4-benzoxazine (1 g) and m-chloroperbenzoic acid (0.5 g) in dichloromethane (50 ml) was stirred at 5° C. for 1 hour. The insoluble material was filtered and the filtrate was concentrated in vacuo. The residue was recrystallized from acetone to give pale brown crystals of 6-[N-methyl-N-(4-methylsulfinylphenyl)carbamoyl]-2,3-dihydro-7-hydroxy-5-oxo-5H-pyrido[1,2,3-de]-1,4-benzoxazine (0.82 g).

reactant | 6-[N-methyl-N-(4-methylthiophenyl)carbamoyl]-2,3-dihydro-7-hydroxy-5-oxo-5H-pyrido-[1,2,3-de]-1,4-benzoxazine | 1 g | CN(C(=O)C1=C(C=2C=CC=C3C2N(CCO3)C1=O)O)C1=CC=C(C=C1)SC | C20H18N2O4S
reactant | m-chloroperbenzoic acid | 0.5 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 6-[N-methyl-N-(4-methylsulfinylphenyl)carbamoyl]-2,3-dihydro-7-hydroxy-5-oxo-5H-pyrido[1,2,3-de]-1,4-benzoxazine | 0.82 g | CN(C(=O)C1=C(C=2C=CC=C3C2N(CCO3)C1=O)O)C1=CC=C(C=C1)S(=O)C | C20H18N2O5S
